US06207644B1
A solution of tert-butyl (3S)-3-amino-2-oxoperhydroazepine-1-acetate (7 g) in THF (50 me) was added to a solution of sodium carbonate (3 g) in water (30 ml). A solution of N-(9-fluorenylmethoxycarbonyloxy)succimimide (9.7 g) in THF (100 ml) was then added dropwise over 30 minutes with stirring. The reaction mixture was stired at ambient temperature for a further 30 minutes. Water (200 ml) was added and the reaction mixture extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine (100 ml), dried (MgSO4) and evaporated. The residue was purified by MPLC on silica, eluting initially with dichloromethane and gradually increasing to 15% ethyl acetate/dichloromethane to give tert-butyl (3S)-3-(9-fluorenylmethoxycarbonylamino)-2-oxoperhydroazepine-1-acetate (10.9 g) as a clear oil; NMR (d6-DMSO): 1.45 (s, 9H), 1.5-2.15 (m, 6H), 3.1-3.25 (m, 1H), 3.6-3.75 (m, 1H), 4.0-4.5 (m, 5H), 6.25 (d, 1H), 7.25-7.45 (m, 4H), 7.6 (d, 2H), 7.75 (d, 2H); mass spectroscopy, m/e (ES+) 465.2 (MH+).

reactant | tert-butyl (3S)-3-amino-2-oxoperhydroazepine-1-acetate | 7 g | N[C@@H]1C(N(CCCC1)CC(=O)OC(C)(C)C)=O | C12H22N2O3
reactant | sodium carbonate | 3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | Water | 200 ml | O | H2O
product | tert-butyl (3S)-3-(9-fluorenylmethoxycarbonylamino)-2-oxoperhydroazepine-1-acetate | 10.9 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H]1C(N(CCCC1)CC(=O)OC(C)(C)C)=O | C27H32N2O5
